US04032525
A solution of 11.35 ml. of titanium (IV) chloride in 135 ml. of benzene is added dropwise with stirring and cooling at 20°-25° C. to a solution of 30 g. of 10,11-dihydro-2,8-dimethyl-dibenz[b,f] oxepin-10-one and 80 ml. of N-ethoxycarbonylpiperazine in 300 ml. of benzene. Then, the mixture is stirred for 4 hours at reflux and cooled. The cooled mixture is poured into a solution of 12 g. of sodium bicarbonate in 300 ml. of water. The precipitated titanium dioxide is removed by filtration and washed well with benzene. The filtrate is washed four additional times with water. The aqueous phases are extracted again with benzene. The combined benzene extracts are dried over sodium sulfate and evaporated in vacuo, and there is obtained 4-[2,8-dimethyl-dibenz[b,f] oxepin-10-yl]-1-piperazinecarboxylic acid ethyl ester as an oil.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 10,11-dihydro-2,8-dimethyl-dibenz[b,f] oxepin-10-one | CC1=CC2=C(OC3=C(C(C2)=O)C=C(C=C3)C)C=C1 | C16H14O2
reactant | N-ethoxycarbonylpiperazine | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | titanium (IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | O | H2O
product | 4-[2,8-dimethyl-dibenz[b,f] oxepin-10-yl]-1-piperazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C1=CC2=C(OC3=C1C=C(C=C3)C)C=CC(=C2)C | C23H26N2O3
